* D:\power_ac3.asc
R1 N001 N004 10k
R2 N004 N009 1k
Q1 0 N014 N012 0 BC857C
R3 N010 N014 1k
V1 N001 0 33 AC 30
V2 N015 0 5.
M1 N001 N004 N002 N002 IRFH5406
R5 N005 0 1k
R6 N002 N005 4.7k
R7 N011 N010 1.5Meg
C1 N005 N011 2.2n
R8 N003 N002 0.22
C3 N005 N010 120p
L1 N009 N012 50µ
R4 N002 N008 9.1k
R11 N003 N007 9.1k
R12 N007 N013 100k
R17 N013 N020 10k
V3 N018 0 0.5
R19 N022 N019 1k
R20 N017 N021 10
Q2 0 N022 N021 0 BC557B
D1 N014 N017 BAT54
R14 N003 0 130 tol=1 pwr=0.1
R21 N008 0 100k
C5 N019 N023 10p
C4 N003 0 100n
V4 N016 0 40
XU3 N015 N005 N016 0 N010 LM224_ON
XU1 N008 N007 N016 0 N013 LM224_ON
XU2 N018 N020 N016 0 N019 LM224_ON
R9 N020 N023 100
.model D D
.lib C:\Users\uidl9506\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\uidl9506\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\uidl9506\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V2 0 5 0.1
;ac oct 10 4 100
;tran 0 0.1 0 0.01
;tf V(n003) V1 list 0.5
;noise V(n003) V1 list 0.5
.lib C:\Users\uidl9506\Downloads\LM224 PSPICE MODEL.MOD
.backanno
.end
